US03994941
In the manner given in Example 1, 8-fluoro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in xylene is heated in an oil bath with repeated additions of portions of paraformaldehyde to give 8-fluoro-1-(2-hydroxyethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-fluoro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C17H13FN4
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 8-fluoro-1-(2-hydroxyethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCO)C3=CC=CC=C3)C1 | C18H15FN4O
